US07504401B2
3,5-Dibromo-benzoic acid and 2-aminophenol were condensed to give 2-(3,5-dibromo-phenyl)-benzoxazole, which was converted to N-[3-benzoxazol-2-yl-5-(1H-indol-4-yl)-phenyl]-acetamide as described in Example 106. 1H NMR (400 MHz, DMSO-d6): δ 11.35 (s, 1H), 10.36 (s, 1H), 8.57 (t, J=1.6 Hz, 1H), 8.13 (d, J=1.6 Hz, 2H), 7.77-7.84 (m, 2H), 7.44-7.48 (m, 2H), 7.39-7.43 (m, 2H), 7.21 (t, J=7.5 Hz, 1H), 7.17 (dd, J=7.2, 1.0 Hz, 1H), 6.64-6.67 (m, 1H), 2.11 (s, 3H).

reactant | 3,5-Dibromo-benzoic acid | BrC=1C=C(C(=O)O)C=C(C1)Br | C7H4Br2O2
reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
product | 2-(3,5-dibromo-phenyl)-benzoxazole | BrC=1C=C(C=C(C1)Br)C=1OC2=C(N1)C=CC=C2 | C13H7Br2NO
